US07393867B2
2-Bromo-6H-pyrrolo[3,2-d]thiazole-5-carboxylic acid amide
Add to a solution of 2-bromo-6H-pyrrolo[3,2-d]thiazole-5-carboxylic acid (2.53 gm, 10 mmol) in DMF (45 ml), DIEA (diisopropylethylamine, 10 ml, 6 eq), EDC (1-( 3-dimethylaminopropyl)-3-ethylcarbodiimide HCl, 5.0 gm, 3.5 eq); HOBT ( 1-hydroxybenzotriazole, 1.91 gm, 14 mmol, 1.4 eq) and NH4Cl (2.25 gm, 42.mmol). Stir the mixture at room temp for 6 hr and monitor by LC-MS. When complete, dilute the mixture with ethyl acetate, and wash with water and brine. Collect the solid by filtration (2.21 gm) and purify by chromatography on silica gel (ISCO silica cartridge, 4 gm, elute with methanol (10-40%) in methylene chloride) to afford the title compound (550 mg).

reactant | 2-bromo-6H-pyrrolo[3,2-d]thiazole-5-carboxylic acid | 10 mmol, 2.53 gm | BrC=1SC2=C(N1)CC(=N2)C(=O)O | C6H3BrN2O2S
reactant | DIEA | 10 ml, 6 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | EDC | 5.0 gm, 3.5 eq
reactant | HOBT | 14 mmol, 1.91 gm, 1.4 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NH4Cl | 2.25 gm | [NH4+].[Cl-]
solvent | DMF | 45 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Bromo-6H-pyrrolo[3,2-d]thiazole-5-carboxylic acid amide | 550 mg | BrC=1SC2=C(N1)CC(=N2)C(=O)N | C6H4BrN3OS
